US04698349
To a solution of sodium ethoxide (sodium, 151 mg) in ethanol (20 ml) was added ethyl pyrid-2-ylacetate (1 ml) at room temperature and the mixture was stirred for 1 hour at the same temperature. To the mixture was added diethyl ethoxymethylenemalonate (1.33 ml) at room temperature and the mixture was stirred at room temperature overnight. To the mixture was added acetic acid (0.75 ml) at room temperature and the precipitate was filtered and washed with water to give 1,3-diethoxycarbonyl-4H-quinolizin-4-one (896 mg).

reactant | sodium ethoxide | 151 mg | [O-]CC.[Na+]
reactant | ethyl pyrid-2-ylacetate | 1 ml | N1=C(C=CC=C1)CC(=O)OCC | C9H11NO2
reactant | diethyl ethoxymethylenemalonate | 1.33 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | acetic acid | 0.75 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,3-diethoxycarbonyl-4H-quinolizin-4-one | 896 mg | C(C)OC(=O)C=1C=C(C(N2C=CC=CC12)=O)C(=O)OCC | C15H15NO5
